US08703758B2
C) benzyl 4-(3,3,3-trifluoro-2-hydroxypropoxy)piperidine-1-carboxylate
A mixture of benzyl 4-(2-oxoethoxy)piperidine-1-carboxylate (2.00 g), trimethyl(trifluoromethyl)silane (1.23 g), tetrabutylammonium fluoride (1 M THF solution, 1 drop) and THF (20 mL) was stirred at 0° C. for 1 hr, and then at room temperature for 3 days. Water was added thereto, and the obtained mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was dissolved in THF (20 mL). Tetrabutylammonium fluoride (1 M THF solution, 8.65 mL) was added thereto at 0° C., and the obtained mixture was stirred at 0° C. for 2 hr. 1M Hydrochloric acid was added, and the obtained mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.60 g).

reactant | benzyl 4-(2-oxoethoxy)piperidine-1-carboxylate | 2.00 g | O=CCOC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H19NO4
reactant | trimethyl(trifluoromethyl)silane | 1.23 g | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium fluoride | 1 M, 1 drop | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | O | H2O
product | benzyl 4-(3,3,3-trifluoro-2-hydroxypropoxy)piperidine-1-carboxylate | 1.60 g | FC(C(COC1CCN(CC1)C(=O)OCC1=CC=CC=C1)O)(F)F | C16H20F3NO4
